US08420647B2
[4-(4-Bromo-2,5-dichloro-phenoxy)-pyridin-3-yl]-(4-cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-methanone
To a suspension of 5.0 g (13.77 mmol) 4-(4-bromo-2,5-dichloro-phenoxy)-nicotinic acid in 30 mL N,N-dimethylformamide were added 5.50 g (14.46 mmol) 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, commercially available, CAS RN 148893-10-1) and 7.03 mL (41.32 mmol) N,N-diisopropylethylamine. To this brown solution was added 2.52 g (14.46 mmol) 1-cyclopropyl-1,2,3,4-tetrahydro-quinoxaline (Example 8, intermediate a), the resulting clear brown solution was stirred at room temperature for 17 hours and then poured on 120 mL water and 120 mL ethyl acetate. The resulting mixture was filtered, the filter cake was thoroughly washed with water and a very small amount of ethyl acetate to give after drying 6.55 g (92%) of the title compound as a brown solid. MS (ESI): m/z=520.1 [M+H]+.

reactant | 4-(4-bromo-2,5-dichloro-phenoxy)-nicotinic acid | 13.77 mmol, 5.0 g | BrC1=CC(=C(OC2=CC=NC=C2C(=O)O)C=C1Cl)Cl | C12H6BrCl2NO3
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 14.46 mmol, 5.50 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 41.32 mmol, 7.03 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-cyclopropyl-1,2,3,4-tetrahydro-quinoxaline | 14.46 mmol, 2.52 g | C1(CC1)N1CCNC2=CC=CC=C12 | C11H14N2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 120 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 120 mL | O | H2O
product | [4-(4-Bromo-2,5-dichloro-phenoxy)-pyridin-3-yl]-(4-cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-methanone | BrC1=CC(=C(OC2=C(C=NC=C2)C(=O)N2CCN(C3=CC=CC=C23)C2CC2)C=C1Cl)Cl | C23H18BrCl2N3O2
